US08202856B2
(trans)-4-(4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzylamino)cyclohexanecarboxylic acid
The title compound was prepared following the procedure described for Example 94, but starting from 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde, obtained as described in Example 113, Step 1, (200 mg; 0.48 mmol) and 4-aminocyclohexanecarboxylic acid (138 mg; 0.97 mmol), to give Example 168 as a white solid. 1H NMR: (DMSO-d6, 400 MHz) δ 8.76-8.73 (2H, m), 7.95-7.88 (3H, m), 7.76-7.69 (1H, m), 7.64-7.49 (6H, m), 3.81 (2H, s), 2.58 (1H, d, J=5.6 Hz), 2.35 (1H, d, J=6.4 Hz), 1.96-1.85 (2H, m), 1.60 (2H, t, J=10.0 Hz), 1.53-1.44 (4H, m). LC/MS (Method C): 540 (M+H)+. HPLC (Method I) Rt 11.49 min (Purity: 93.8%).

reactant | 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C22H13FN6O2
reactant | 4-aminocyclohexanecarboxylic acid | 0.97 mmol, 138 mg | NC1CCC(CC1)C(=O)O | C7H13NO2
product | (trans)-4-(4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzylamino)cyclohexanecarboxylic acid | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(CN[C@@H]2CC[C@H](CC2)C(=O)O)C=C1 | C29H26FN7O3
